US06034127
a) 2-Chlorobenzenesulfonic acid 1-hydroxynaphthalen-3-yl ester
At 0° C. to 1.0 g (6.24 mmol) of 1,3-naphthalenediol in tetrahydrofuran (20 mL) containing 1.5 mL of 2,6-lutidine was added 1.35 g (6.40 mmol) of 2-chlorobenzenesulfonyl chloride. The reaction mixture was stirred to ambient temperature overnight, quenched with 3N hydrochloric acid, extracted into methylene chloride, and dried (MgSO4). Purification by flash chromatography (2% ethyl acetate/methylene chloride) gave 277 mg (13% yield) of the title compound as a colorless solid. 1H-NMR (300 MHz, DMSO-d6) δ 10.75 (s, 1H), 8.06 (d, 1H, J=1.7 Hz), 7.78-7.95 (m, 4H), 7.43-7.57 (m, 3H), 7.11 (d, 1H, J=2 Hz), and 6.63 (d, 1H, J=2 Hz).

reactant | 1,3-naphthalenediol | 6.24 mmol | C1(=CC(=CC2=CC=CC=C12)O)O | C10H8O2
reactant | 2,6-lutidine | 1.5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-chlorobenzenesulfonyl chloride | 6.40 mmol, 1.35 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic acid 1-hydroxynaphthalen-3-yl ester | 277 mg, 13% yield | OC1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C1=C(C=CC=C1)Cl | C16H11ClO4S
